US07795436B2
cis-6-Methyl-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one
To a solution of cis-3-benzyl-8-bromo-6-methyl-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one (50 mg, 0.14 mmol) in MeOH (3.0 mL) was added Pd(OH)2 (10.0 mg, 20 wt %). The reaction mixture was stirred at 20° C. for 15 h under H2 atmosphere, filtered through celite and concentrated in vacuo. The residue was chromatographed in silica gel column (CH2Cl2/MeOH 95/5) to give the title compound (20 mg, 0.099 mmol): MS (ES) 202.2 (M+H).

reactant | cis-3-benzyl-8-bromo-6-methyl-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | 0.14 mmol, 50 mg | C(C1=CC=CC=C1)N1CC[C@H]2C(C3=C(C=C(C=C3[C@H]2C1)C)Br)=O | C20H20BrNO
solvent | MeOH | 3.0 mL | CO | CH4O
catalyst | Pd(OH)2 | 10.0 mg | [OH-].[OH-].[Pd+2]
product | cis-6-Methyl-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | 0.099 mmol, 20 mg | CC=1C=C2[C@H]3CNCC[C@H]3C(C2=CC1)=O | C13H15NO
